US07872009B2
Step 1: Methyl 1-methyl-6-oxo-5-(pyridin-2-yl)-1,6-dihydropyridine-3-carboxylate
Methyl 5-bromo-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate (57 mg, 0.23 mmol), 2-(tributylstannyl)pyridine (85 mg, 0.23 mmol) and tetrakis(triphenylphosphine)palladium (13 mg, 0.012 mmol, Strem) were stirred in 1.5 mL of dioxane at 90° C. for 16 h. The reaction mixture was cooled to RT, diluted with H2O and extracted with EtOAc (2×). The combined organic extracts were washed 1× with brine, dried over MgSO4, filtered and concentrated in vacuo. Purification of the crude residue by column chromatography (4 g pre-packed column, elution 0-30% EtOAc/Hexanes) gave the title compound (22 mg, 39%) as a light yellow solid. MS m/z: 245 (M+1).

reactant | Methyl 5-bromo-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.23 mmol, 57 mg | BrC1=CC(=CN(C1=O)C)C(=O)OC | C8H8BrNO3
reactant | 2-(tributylstannyl)pyridine | 0.23 mmol, 85 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.012 mmol, 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 1-methyl-6-oxo-5-(pyridin-2-yl)-1,6-dihydropyridine-3-carboxylate | 22 mg, 39% | CN1C=C(C=C(C1=O)C1=NC=CC=C1)C(=O)OC | C13H12N2O3
